2128-01-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **]yo M w/ h/o endstage alzheimer's, afib, esophageal
   stricture s/p 3 diliataions, and recurrent aspiration who presented
   from nursing home for lethargy, and cough w/sputum over last couple
   days.
   24 Hour Events:
   Overnight pt was uneventful. He did require frequent suctioning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-22**] 04:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-23**] 02:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-1-22**] 08:26 PM
   Heparin Sodium (Prophylaxis) - [**2128-1-23**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 74 (67 - 87) bpm
   BP: 162/95(109) {117/64(78) - 162/95(109)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    466 mL
                                                                    581 mL
   PO:
             TF:
   IVF:
                                                                    436 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    335 mL
   Urine:
                                                                    250 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    216 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GENERAL: late-stage alzheimer's - nonresponsive
   HEENT:  Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRL 2mm->1mm. MMM. OP clear.
   NECK: trach present. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=flat
   LUNGS: course rhonchi, and rales throughout
   ABDOMEN: +BS Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Pt non-responsive to commands. Somnolent.
   Labs / Radiology
   410 K/uL
   11.2 g/dL
   104 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   54 mg/dL
   119 mEq/L
   151 mEq/L
   36.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2128-1-23**]  02:40 AM
   WBC
   10.9
   Hct
   36.1
   Plt
   410
   Cr
   0.8
   Glucose
   104
   Other labs: PT / PTT / INR:14.9/56.9/1.3, Lactic Acid:1.9 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from nursing home
   with lethary and fever, diagnosed at OSH ED with pna, transferred to
   [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of aspiration
   pna/HAP.
   .
   #. Aspiration Pneumonia: Pt has white count, fevers, leukocytosis. Pt
   has recurrent asp pna, ?may be associated this time with increasing
   feeds. Pt was previously tx with vanc/zosyn/cipro, however no record of
   pseudomonas is recorded. GPC in sputum
   - will tx with Vanc 1g IV q24/Zosyn 2.25g IV q8  day#2
   - frequent suctioning prn
   - f/u cultures
   .
   # Hypernatremia- improved from 158 to 151. Will replace pt
s 2.2 L free
   water deficit.
   - D5W total of 2L over 24h, will give 250cc q2 per J-tube
   #. Atrial Fibrillation - currently in afib, but rate controlled.
   - will moniter, add metop RVR
   #. Acute Renal failure- BUN 70/Cr 1.0, now improved 58/0.8 Likely
   pre-renal. Continue bolusing fluids
   -  will give 1L bolus
   -  PM lytes
   .
   #. Hypertension- currently controlled, will moniter
   .
   #. UTI- UA with neg nitrates but WBC 21-50.
   - will be covered by zosyn
   .
   #. Hiatal hernia- will give home omezprazole
   .
   FEN: NPO currently
   .
   PPX:
   -DVT ppx with SQH
   -Bowel regimen colace/senna
   -Pain management with tylenol
   -GI ppx: protonix 40 IV q24
   .
   ACCESS: PIV
   .
   CODE STATUS: Presumed full
   EMERGENCY CONTACT: wife
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-22**] 05:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-24 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from nursing home
   with lethary and fever, diagnosed at OSH ED with pna, transferred to
   [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of aspiration
   pna/HAP.
   24 Hour Events:
   EKG with 1st degree block
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-23**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 02:04 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-24**] 12:02 AM
   Other medications:
   1.  Piperacillin-Tazobactam Na 2.25 g IV Q6H d1 = [**2128-1-22**]
   2. Acetaminophen (Liquid) 650 mg PO Q6H:PRN
   3. Docusate Sodium (Liquid) 100 mg PO BID
   4. Heparin 5000 UNIT SC TID
   5. Senna 1 TAB PO BID:PRN
   6. Vancomycin 1000 mg IV Q 24H d1 = [**2128-1-22**]
   7. Pantoprazole 40 mg IV Q24H
   Flowsheet Data as of  [**2128-1-24**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.6
   HR: 74 (62 - 76) bpm
   BP: 136/71(86) {106/59(69) - 166/90(110)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 68 Inch
             Total In:
                                                                  3,260 mL
                                                                  1,800 mL
   PO:
             240 mL
   TF:
                                                                    531 mL
                                                                    289 mL
   IVF:
                                                                  1,459 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    390 mL
   Urine:
                                                                    990 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,270 mL
                                                                  1,410 mL
   Physical Examination
   GENERAL: late-stage alzheimer's - nonresponsive
   HEENT:  Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRL 2mm->1mm. MMM. OP clear.
   NECK: trach present. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=flat
   LUNGS: course rhonchi, and rales throughout
   ABDOMEN: +BS Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Pt non-responsive to commands. Somnolent.
   Labs / Radiology
   410 K/uL
   11.2 g/dL
   117 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   49 mg/dL
   115 mEq/L
   150 mEq/L
   36.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2128-1-23**]  02:40 AM
                             [**2128-1-23**]  04:00 PM
   WBC
   10.9
   Hct
   36.1
   Plt
   410
   Cr
   0.8
   0.7
   Glucose
   104
   117
   Other labs: PT / PTT / INR:13.7/24.9/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from nursing home
   with lethary and fever, diagnosed at OSH ED with pna, transferred to
   [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of aspiration
   pna/HAP.
 HYPERNATREMIA (HIGH SODIUM)
 Initially 158, improved to 151 with
   isotonic fluids, now at 141 with free water repletion via J tube.
   - continue occasional free water flushes
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 Likely aspiration. Pt has
white count, fevers, leukocytosis. Pt has recurrent asp pna, ?may be associated
this time with increasing feeds. Pt was previously tx with vanc/zosyn/cipro, how
ever no record of pseudomonas is recorded. Sputum culture with moderate growth o
f STAPH AUREUS COAG +.
   - will tx with Vanc 1g IV q24/Zosyn 2.25g IV q8
   - frequent suctioning prn
   - f/u cultures
   #. Atrial Fibrillation - currently in afib, but rate controlled.
   - will moniter, add metop RVR
   .
   #. Hypertension- currently controlled, will moniter
   .
   #. UTI- UA with neg nitrates but WBC 21-50, Urine Culture pending
   - will be covered by zosyn
   .
   #. Hiatal hernia- will give home omezprazole
   ICU Care
   Nutrition: NPO, Fibersource HN (Full) - [**2128-1-23**] 09:58 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-22**] 05:56 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: IV PPI
   Communication:  Wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2128-01-25 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  [**Age over 90 **]yoM htn, afib, esophageal stricture transferred
   from nursing home with lethary and fever, diagnosed at OSH ED with pna,
   transferred to [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of
   aspiration pna/HAP.
   24 Hour Events:
   - Discussed plan with wife, she thinks pt has recently gone downhill.
   So far still Full code, can readdress with attending.
   - She also told us that Dr [**Known lastname 3367**] pulled out his G and J tube at NH and
   his nurse replaced one of them with a foley but we don't know which or
   where it is - had study done last night, but hasn't been read yet.
   - She also wants to ask if he would aspirate less if his trach was
   cuffed? ??
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-24**] 09:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-25**] 07:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-25**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-25**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 74 (67 - 86) bpm
   BP: 136/75(83) {109/56(70) - 143/108(114)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 68 Inch
             Total In:
                                                                  3,010 mL
                                                                    278 mL
   PO:
                                                                    240 mL
             TF:
                                                                    774 mL
   IVF:
                                                                  1,197 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    380 mL
   Urine:
                                                                  1,610 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,400 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: late-stage alzheimer's - nonresponsive
   HEENT:  Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRL 2mm->1mm. MMM. OP clear.
   NECK: trach present. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=flat
   LUNGS: course rhonchi, and rales throughout
   ABDOMEN: +BS Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Pt more alert than previous, moving limbs spontaneously, opens
   eyes when spoken to.
   Labs / Radiology
   357 K/uL
   11.0 g/dL
   79 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   139 mEq/L
   34.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2128-1-23**]  02:40 AM
                             [**2128-1-23**]  04:00 PM
                             [**2128-1-25**]  05:15 AM
   WBC
   10.9
   8.1
   Hct
   36.1
   34.7
   Plt
   410
   357
   Cr
   0.8
   0.7
   0.7
   Glucose
   104
   117
   79
   Other labs: PT / PTT / INR:13.7/24.9/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from nursing home
   with lethary and fever, diagnosed at OSH ED with pna, transferred to
   [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of aspiration
   pna/HAP.
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 Likely aspiration in setti
ng of increased tube feeds.  Afebrile, WBC 10.8. In past tx vanc/zosyn/cipro, no
t on cipro as no record of pseudomonas is recorded. Sputum culture with moderate
 growth of STAPH AUREUS COAG +. Pt still requiring q1h suctioning and cannot go
to floor.
   - will tx with Vanc 1g IV q24/Zosyn 2.25g IV q8  x8 days
   - frequent suctioning prn
   - f/u cultures and sensitivites
   - will replace trach with one with cuff
 HYPERNATREMIA (HIGH SODIUM)
 Initially 158, improved to 151 with
   isotonic fluids, now at 141 with free water repletion via J tube.
   - continue ot moniter
   - now resolved
   # 1^st degree AV block- will moniter for now, consider decreasing nodal
   agents.
   #. Atrial Fibrillation - currently  not in afib, but rate controlled.
   - will moniter, metoprolol prn
   .
   #. Hypertension- currently controlled, will moniter
   .
   #. UTI- UA with neg nitrates but WBC 21-50, Urine Culture pending
   - will be covered by zosyn
   .
   #. Hiatal hernia- will give home omezprazole
   ICU Care
   Nutrition: NPO, Fibersource HN (Full) - [**2128-1-23**] 09:58 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-22**] 05:56 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: IV PPI
   Communication:  Wife
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2128-01-26 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from
   nursing home with lethary and fever, diagnosed at OSH ED with pna,
   transferred to [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of
   aspiration pna/HAP.
   24 Hour Events:
   - replaced trach with one w/ cuff
   - plan on replacing foley with G-tube/J-tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-25**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 71 (65 - 88) bpm
   BP: 114/65(76) {97/58(68) - 156/93(107)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 68 Inch
             Total In:
                                                                  1,080 mL
                                                                    467 mL
   PO:
             TF:
                                                                    240 mL
                                                                    294 mL
   IVF:
                                                                    840 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    170 mL
   Urine:
                                                                  1,210 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: late-stage alzheimer's - nonresponsive
   HEENT:  Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRL 2mm->1mm. MMM. OP clear.
   NECK: trach present. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP=flat
   LUNGS: course rhonchi, and rales throughout
   ABDOMEN: +BS Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Pt more alert than previous, moving limbs spontaneously, opens
   eyes when spoken to.
   Labs / Radiology
   351 K/uL
   11.0 g/dL
   129 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   107 mEq/L
   139 mEq/L
   32.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2128-1-23**]  02:40 AM
                             [**2128-1-23**]  04:00 PM
                             [**2128-1-25**]  05:15 AM
                             [**2128-1-26**]  05:02 AM
   WBC
   10.9
   8.1
   7.9
   Hct
   36.1
   34.7
   32.9
   Plt
   [**Telephone/Fax (3) 5100**]
   Cr
   0.8
   0.7
   0.7
   0.8
   Glucose
   104
   117
   79
   129
   Other labs: PT / PTT / INR:13.7/24.9/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 MALNUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
   [**Age over 90 **]yoM htn, afib, esophageal stricture transferred from nursing home
   with lethary and fever, diagnosed at OSH ED with pna, transferred to
   [**Hospital1 5**], diagnosed with pna, admitted to [**Hospital Unit Name 4**] for tx of aspiration
   pna/HAP.

 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 Likely
   aspiration in setting of increased tube feeds.  Afebrile, WBC 10.8. In
   past tx vanc/zosyn/cipro, not on cipro as no record of pseudomonas is
   recorded. Sputum culture with moderate growth of STAPH AUREUS COAG +.
   Pt still requiring q1h suctioning and cannot go to floor.
   - will tx with Vanc 1g IV q24 (as only coag + SA on cx data)  x8 days
   (day [**2-25**])
   - frequent suctioning prn
   - f/u cultures and sensitivites
   - will replace trach with one with cuff
 HYPERNATREMIA (HIGH SODIUM)
 Initially 158, improved to 151 with
   isotonic fluids, now at 141 with free water repletion via J tube.
   - continue ot moniter
   - now resolved
   # 1st degree AV block- will moniter for now, consider decreasing nodal
   agents.
   #. Atrial Fibrillation - currently  not in afib, but rate controlled.
   - will moniter, metoprolol prn
   #. Hypertension- currently controlled, will moniter
   #. UTI- UA with neg nitrates but WBC 21-50, Urine Culture pending
   - no growth thus far, repeat UA
   #. Hiatal hernia- will give home omezprazole
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2128-1-26**] 06:27 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-1-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined.  Sputum has only
   shown Staph (MRSA).  Secretions very slightly improving. Na+ has now
   been corrected. To IR for G-tube this am.
   V lethargic
 baseline
   Coarse BS with mid insp crackles
   Na 141
   Continue Vanco
 d/c other abx
   Tube feeds will back off on free water
   Continue aggressive suctioning
   Time spent 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2128-1-26**] 18:03 ------